US04198428
4-Methyl-thiobenzoic acid thiocyanomethyl ester
20.5 g (0.11 mol) of the K salt of 4-methyl-thiobenzoic acid and 11.7 g (0.11 mol) of chloromethyl thiocyanate were reacted and processed as in Example 1 B. 22.5 g of a light powder resulted and, after recrystallisation from ligroin, 18 g of white crystals resulted; melting point 55° (this corresponds to a yield of 80% of the theoretical conversion).

reactant | 4-methyl-thiobenzoic acid | CC1=CC=C(C(=S)O)C=C1 | C8H8OS
reactant | chloromethyl thiocyanate | 0.11 mol, 11.7 g | ClCSC#N | C2H2ClNS
product | 4-Methyl-thiobenzoic acid thiocyanomethyl ester | yield of 80% | S(C#N)COC(C1=CC=C(C=C1)C)=S | C10H9NOS2
